US04626325
The specification describes a process for preparing 4-hydroxy-1,2-benzisothiazol-3(2H)-one-1,1-dioxide, a sweetener, from 1,2-benzisothiazol-3(2H)-one-1,1-dioxide by anodic oxidation in the presence of trifluoroacetic acid or trifluoromethanesulfonic acid and, optionally, in the presence of salts which increase the conductivity. The oxidation is effected in an anhydrous medium and the 4-trifluoroacetoxy-1,2-benzisothiazol-3(2H)-one-1,1-dioxide formed as an intermediate when, for example, trifluoroacetic acid is used is decomposed with water to obtain the desired end product.

reactant | 4-hydroxy-1,2-benzisothiazol-3(2H)-one-1,1-dioxide | OC1=CC=CC2=C1C(NS2(=O)=O)=O | C7H5NO4S
reactant | 1,2-benzisothiazol-3(2H)-one-1,1-dioxide | S1(NC(C2=C1C=CC=C2)=O)(=O)=O | C7H5NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 4-trifluoroacetoxy-1,2-benzisothiazol-3(2H)-one-1,1-dioxide | FC(C(=O)OC1=CC=CC2=C1C(NS2(=O)=O)=O)(F)F | C9H4F3NO5S
